US05068320
6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine (0.290 g, 1 mmoles), 4-dimethylaminopyridine (10.2 mg, 0.1 mmoles, Aldrich Chemical Co., Madison, Wis.), and triethylamine (620 μl, 4.4 mmoles, Aldrich Chemical Co., Madison, Wis.) were dissolved in 50 mL acetonitrile. The flask was chilled in an ice bath and acetyl chloride (150 μl, 2.1 mmoles, Aldrich Chemical Co., Madison, Wis.) was added. The reaction was brought to room temperature and stirred for 4 hours. Additional aliquots of triethylamine (620 μl, 4.4 mmoles) and acetyl chloride (150 μl, 2.1 mmoles) were added and the reaction was stirred overnight. The reaction was quenched with methanol and solvents were evaporated in vacuo. The residue was suspended in 25 mL ethyl acetate and salts were removed by filtration. Solvent was evaporated in vacuo and the remaining material was chromatographed on a Chromatotron (4 mm silica gel plate) with a mixture of hexane:acetone (7:3). Lyophilization afforded 0.174 g of 9-[(2R,5S)-5-(acetoxymethyl)-tetrahydro-2-furyl]-6-(cyclopropylmethylamino)-9H-purine as an oil (51% yield).

reactant | 6-(Cyclopropylmethylamino)-9-[(2R,5S)-tetrahydro-5-(hydroxymethyl)-2-furyl]-9H-purine | 1 mmoles, 0.290 g | C1(CC1)CNC1=C2N=CN(C2=NC=N1)[C@@H]1O[C@@H](CC1)CO | C14H19N5O2
reactant | triethylamine | 4.4 mmoles, 620 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.1 mmoles, 150 μl | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 4.4 mmoles, 620 μl | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.1 mmoles, 150 μl | C(C)(=O)Cl | C2H3ClO
catalyst | 4-dimethylaminopyridine | 0.1 mmoles, 10.2 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 9-[(2R,5S)-5-(acetoxymethyl)-tetrahydro-2-furyl]-6-(cyclopropylmethylamino)-9H-purine | 0.174 g, 51% yield | C(C)(=O)OC[C@@H]1CC[C@@H](O1)N1C2=NC=NC(=C2N=C1)NCC1CC1 | C16H21N5O3
